US04728356
49.9 g (0.15 mol) of 1-(4-chlorophenyl)-2,2-dimethyl-5-dimethylamino-4-(1,2,4-triazol-1-yl)-4-penten-3-one are dissolved in 750 ml of ether, and a solution of 33.9 g (0.23 mol) of n-propyl-magnesium bromide in 100 ml of ether is added dropwise at -20° C. The reaction mixture is subsequently stirred for 1.5 hours, during which it warms to room temperature. The reaction mixture is adjusted to a pH value of 7 to 8 with dilute hydrochloric acid. The organic phase is then separated off, washed with water, dried over sodium sulphate and concentrated. The residue is purified by column chromatography (silica gel; ethyl acetate/cyclohexane=3:1). 30.1 g (60.5% of theory) of 1-(4-chlorophenyl)-2,2-dimethyl-4-(1,2,4-triazol-1-yl)-4-octen-3-one of refractive index nD20 1.5429 are obtained.

reactant | 1-(4-chlorophenyl)-2,2-dimethyl-5-dimethylamino-4-(1,2,4-triazol-1-yl)-4-penten-3-one | 0.15 mol, 49.9 g | ClC1=CC=C(C=C1)CC(C(C(=CN(C)C)N1N=CN=C1)=O)(C)C | C17H21ClN4O
reactant | n-propyl-magnesium bromide | 0.23 mol, 33.9 g | C(CC)[Mg]Br
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 750 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-(4-chlorophenyl)-2,2-dimethyl-4-(1,2,4-triazol-1-yl)-4-octen-3-one | 30.1 g, 60.5% | ClC1=CC=C(C=C1)CC(C(C(=CCCC)N1N=CN=C1)=O)(C)C | C18H22ClN3O
